US05175170
N-Methyl-N-Boc-α-(R)-methyl-β-alanine
To a solution of N-Boc-α-(R,S)-methyl-β-alanine (1.33 g, 6.5 mmol) in THF (80 ml)was added pentane washed sodium hydride(1.2 g, 60% in oil dispersion) followed by methyl iodide (2 ml, exess). The reaction mixture was stirred overnight and then poured into an iced solution of citric acid (0.5N). The aqueous THF solution was extracted into ethyl acetate. Then the required acid was back extracted between ethyl acetate, sodium hydrogen carbonate and potassium hydrogen sulphate solutions. The organic extracts were dried (MgSO4) and evaporated to afford the title compound. (1.00 g, 71%), Anal: C10H19NO4.0.3H2O, Calc: C, 53.94; H, 8.87; N, 6.29. Found, C, 54.02; H, 8.56; N, 6.63.

reactant | N-Boc-α-(R,S)-methyl-β-alanine | 6.5 mmol, 1.33 g | C(=O)(OC(C)(C)C)NCC(C(=O)O)C | C9H17NO4
reactant | pentane | CCCCC | C5H12
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | N-Methyl-N-Boc-α-(R)-methyl-β-alanine | CN(C[C@H](C(=O)O)C)C(=O)OC(C)(C)C | C10H19NO4
